US04317915
4-amino-5-ethyl-3-thiophenecarboxylic acid isopropyl ester hydrochloride
A sample of 1.02 g. (4.610 mmols) of 4-amino-5-ethyl-3-thiophenecarboxylic acid was dissolved in 50 ml. of isopropanol which had been previously saturated with gaseous hydrogen chloride. The resulting reaction was heated under reflux for 48 hours, cooled and evaporated to afford 0.927 g. (81%) of pure 4-amino-5-ethyl-3-thiophenecarboxylic acid isopropyl ester hydrochloride, m.p. 159° C. (dec.) after recrystallization from isoprpopanol/ether.

reactant | 4-amino-5-ethyl-3-thiophenecarboxylic acid | 4.610 mmols | NC=1C(=CSC1CC)C(=O)O | C7H9NO2S
reactant | hydrogen chloride | Cl | ClH
reactant | isopropanol | C(C)(C)O | C3H8O
product | 4-amino-5-ethyl-3-thiophenecarboxylic acid isopropyl ester hydrochloride | Cl.C(C)(C)OC(=O)C1=CSC(=C1N)CC | InChI=1S/C10H15NO2S.ClH/c1-4-8-9(11)7(5-14-8)10(12)13-6(2)3;/h5-6H,4,11H2,1-3H3;1H
